US04304924
To a mixture of 12.0 g (55.4 mmol) 2-(4-bromophenoxy)ethanol, 100 ml dry methylene chloride and 5.1 g (60.9 mmol) dihyropyran is added, at RT, 0.42 g (2.2 mmol) p-toluenesulfonic acid.water. The mixture is stirred for 3 days at RT, after which 50 ml methylene chloride, 50 ml water and 10 ml aqueous 15% potassium carbonate are added. The organic phase is separated and washed with water (60 ml) and with saturated aqueous sodium chloride, and is then dried over calcium sulfate. Solvent is removed by rotary evaporation to yield 4-(2-tetrahydropyranyloxyethoxy)bromobenzene.

reactant | 2-(4-bromophenoxy)ethanol | 55.4 mmol, 12.0 g | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
reactant | dihyropyran | 60.9 mmol, 5.1 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 2.2 mmol, 0.42 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-tetrahydropyranyloxyethoxy)bromobenzene | O1C(CCCC1)OCCOC1=CC=C(C=C1)Br | C13H17BrO3
